US04707497
To a suspension of 3.7 g of 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl) ethanol hydrochloride, obtained as described in Example 7, in 60 ml of anhydrous methylene chloride, there is added dropwise, under a nitrogen stream and at the temperature of -20° C., 60 ml of a 1M solution of boron tribromide in methylene chloride. The reaction mixture is left under stirring at the temperature of -20° C. for 3 hours and 30 minutes. An excess of ice is added and the mixture is made alkaline with concentrated ammonia. The organic phase is separated, dried over anhydrous sodium sulfate and evaporated to dryness. The residue thus obtained is purified by flash-chromatography using a mixture of methylene chloride/methanol 9/1 for the elution. The 2-[(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl)ethanol, thus obtained in the form of basis, is dissolved in a mixture of 10 ml of isopropyl alcohol and 30 ml of ethyl ether. To the resulting solution there is added a saturated solution of hydrogen chloride in isopropyl alcohol to obtain the 2-[(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl)-ethanol hydrochloride, designated by its code number SR 58339 A, which, after crystallization from 20 ml of absolute ethanol, melts at 113°-115° C. Yield: 30% of the theoretical value.

reactant | 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl) ethanol hydrochloride | 3.7 g | Cl.COC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC(=CC=C1)Cl
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | ammonia | N | H3N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-[(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl)ethanol | OC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC(=CC=C1)Cl | C18H20ClNO2
